US05721277
A 10 gram suspension of 2-(4-chlorophenylsulfonyl)-1-ethoxypropene in 30 ml of ethanol was added with a solution of 1.1 equivalent of hydroxylamine in 20 ml of water. The mixture was then stirred at room temperature for 2 hours, chilled in an ice-water bath for 30 minutes and filtered. The resulting solid was crystallized in ethanol and water to provide 8.0 grams of 4-(4-chlorophenylsulfonyl)-5-methylisoxazole.

reactant | 2-(4-chlorophenylsulfonyl)-1-ethoxypropene | ClC1=CC=C(C=C1)S(=O)(=O)C(=COCC)C | C11H13ClO3S
reactant | hydroxylamine | 1.1 equivalent | NO | H3NO
reactant | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | 4-(4-chlorophenylsulfonyl)-5-methylisoxazole | 8.0 grams | ClC1=CC=C(C=C1)S(=O)(=O)C=1C=NOC1C | C10H8ClNO3S
